US06756378B2
To a stirred solution of [1-tert-butoxycarbonyl-(2S)-octahydroindolyl]methanol (947 mg, 3.7 mmol), methyl 4-hydroxybenzoate (565 mg, 3.7 mmol), and Ph3P (1.2 g, 4.5 mmol) in THF (10 ml) was added DIAD (984 mg, 4.5 mmol) at 0° C. The reaction mixture was stirred at room temperature for 18 hr. The mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (9/1, v/v) as eluent to give methyl 4-[1-tert-butoxycarbonyl-(2S)-octahydroindolylmethoxy]benzoate (700 mg, 50%) as a pale yellow oil. 1H-NMR (CDCl3) δ1.10-2.25 (m, 11H), 1.45 (s, 9H), 3.88 (s, 3H), 3.70-4.20 (m, 3H), 4.36 (br s, 1H), 6.94 (d, J=8.8H z, 2H), 7.96 (d, J=8.5H z, 2H).

reactant | [1-tert-butoxycarbonyl-(2S)-octahydroindolyl]methanol | 3.7 mmol, 947 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC2CCCCC12)CO | C14H25NO3
reactant | methyl 4-hydroxybenzoate | 3.7 mmol, 565 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | Ph3P | 4.5 mmol, 1.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 4.5 mmol, 984 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 4-[1-tert-butoxycarbonyl-(2S)-octahydroindolylmethoxy]benzoate | 700 mg, 50% | C(C)(C)(C)OC(=O)N1[C@@H](CC2CCCCC12)COC1=CC=C(C(=O)OC)C=C1 | C22H31NO5
